US04483867
Preparation of pivaloyloxymethyl trans-4-aminomethylcyclohexanecarboxylate hydrochloride (Method A)
Chloromethyl pivalate (33.2 g; 0.22 mol) was added to a suspension of sodium bromide (22.4 g; 0,22 mol) in dimethylformamide. After 2 h a solution of trans-4-(tert.-butyloxycarbonylaminomethyl)cyclohexanecarboxylic acid in triethylamine (24 g; 0.24 mol) and dimethylformamide was added. The mixture was stirred overnight at room temperature. The solvent was distilled off and water (1 L) and dichloromethane was added. The organic layer was separated, washed, dried and evaporated to yield 55 g. This product was dissolved in ethyl acetate and cooled. A solution of hydrochloric acid in ethyl acetate was added. After 1 h ether was added. The precipitate was filtered, washed and dried to yield 30.2 g, m.p. 165° C. after crystallisation from acetone.

reactant | Chloromethyl pivalate | 0.22 mol, 33.2 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | sodium bromide | 0,22 mol, 22.4 g | [Br-].[Na+]
reactant | trans-4-(tert.-butyloxycarbonylaminomethyl)cyclohexanecarboxylic acid | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C13H23NO4
reactant | triethylamine | 0.24 mol, 24 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | pivaloyloxymethyl trans-4-aminomethylcyclohexanecarboxylate hydrochloride | Cl.NC[C@@H]1CC[C@H](CC1)C(=O)OCOC(C(C)(C)C)=O | InChI=1S/C14H25NO4.ClH/c1-14(2,3)13(17)19-9-18-12(16)11-6-4-10(8-15)5-7-11;/h10-11H,4-9,15H2,1-3H3;1H/t10-,11-;
